US08008298B2
To a flask charged with 1-(3-Bromo-phenyl)-pyrrolidin-2-one (713 mg), bis(pinacolato)diboron (1.51 g), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex (121 mg) and potassium acetate (874 mg) was added 10 mL of DMSO and the resulting mixture stirred at 90° C. for 16 h. The reaction mixture was cooled and filtered over celite. The mixture was then partitioned between water and dichloromethane and the organic phase was dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (0-100% ethyl acetate in hexanes) afforded a 286 mg of 1-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidin-2-one. Subsequent steps involved the standard Suzuki coupling, iodination, and aminocarbonylation.

reactant | 1-(3-Bromo-phenyl)-pyrrolidin-2-one | 713 mg | BrC=1C=C(C=CC1)N1C(CCC1)=O | C10H10BrNO
reactant | bis(pinacolato)diboron | 1.51 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 874 mg | C(C)(=O)[O-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 1-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidin-2-one | 286 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1C(CCC1)=O)C | C16H22BNO3
